US07214802B2
3-Azido-4-methyl benzoic acid (497 mg; 2.81 mmol) was suspended in 6.5 mL of EtOH. To this mixture was added 4N NaOH until the mixture became homogeneous, followed then by 2-(cyclopropylmethyl)amino-5-ethynyl pyridine (460 mg; 2.61 mmol) and 529 mg (2.67 mmol) of sodium ascorbate in 0.7 mL of water. The mixture was stirred rapidly as 2.67 mL of a 0.1 M CuSO4 solution was added. A yellow precipitate formed and the mixture was stirred rapidly for 14 h. The mixture was poured into water and acidified carefullly with HOAc. The resulting precipitate was filtered and washed with water. A fine yellow powder was isolated. This material was crushed in 1 mL of MeOH and 5 mL of NH4OH was added. The resulting green mixture was stirred for 10 min, then HOAc was carefully added until a white precipitate formed (pH 8–9). The precipitate was filtered and washed with 1% HOAc in water, then with water and hexanes to provide 607 mg (1.74 mmol; 65%) of 3-{4-[6-(cyclopropylmethyl-amino)-pyridin-3-yl]-1,2,3-triazol-1-yl}-4-methyl-benzoic acid.

reactant | 3-Azido-4-methyl benzoic acid | 2.81 mmol, 497 mg | N(=[N+]=[N-])C=1C=C(C(=O)O)C=CC1C | C8H7N3O2
reactant | NaOH | 4N | [OH-].[Na+]
reactant | 2-(cyclopropylmethyl)amino-5-ethynyl pyridine | 2.61 mmol, 460 mg | C1(CC1)CNC1=NC=C(C=C1)C#C | C11H12N2
reactant | sodium ascorbate | 2.67 mmol, 529 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | NH4OH | 5 mL | [NH4+].[OH-]
solvent | EtOH | 6.5 mL | CCO | C2H6O
solvent | water | 0.7 mL | O | H2O
solvent | MeOH | 1 mL | CO | CH4O
catalyst | CuSO4 | 0.1 M | [O-]S(=O)(=O)[O-].[Cu+2]
solvent | HOAc | CC(=O)O | C2H4O2
product | 3-{4-[6-(cyclopropylmethyl-amino)-pyridin-3-yl]-1,2,3-triazol-1-yl}-4-methyl-benzoic acid | 1.74 mmol, 607 mg, 65% | C1(CC1)CNC1=CC=C(C=N1)C=1N=NN(C1)C=1C=C(C(=O)O)C=CC1C | C19H19N5O2
